US07423050B2
10. 2-Trifluoromethoxy-N-[6-(1-methyl-piperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide mono-hydrochloride salt
Combine 2-amino-6-(1-methylpiperidin-4-ylcarbonyl)pyridine (0.18 g, 0.84 mmol), 2-trifluoromethoxybenzoyl chloride (0.23 g, 1.0 mmol) and 1,4-Dioxane (5 mL). Stir and heat the mixture at reflux. After 3 hr., cool the reaction mixture to ambient temperature. Load on an SCX column (10 g), wash with methanol, and elute with 2M ammonia/methanol. Concentrate the eluent to obtain the free base of the title compound (0.26 g, 76%). Dissolve the free base in methanol (10 mL) and treat with ammonium chloride (0.032 g). Concentrate and dry under vacuum to obtain the title compound. HRMS Obs. m/z 408.1517, Calc. m/z 408.1535; m.p. 155-160° C.

reactant | 2-amino-6-(1-methylpiperidin-4-ylcarbonyl)pyridine | 0.84 mmol, 0.18 g | NC1=NC(=CC=C1)C(=O)C1CCN(CC1)C | C12H17N3O
reactant | 2-trifluoromethoxybenzoyl chloride | 1.0 mmol, 0.23 g | FC(OC1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O2
solvent | 1,4-Dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-Trifluoromethoxy-N-[6-(1-methyl-piperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide mono-hydrochloride salt | 0.26 g, 76% | Cl.FC(OC1=C(C(=O)NC2=NC(=CC=C2)C(=O)C2CCN(CC2)C)C=CC=C1)(F)F | InChI=1S/C20H20F3N3O3.ClH/c1-26-11-9-13(10-12-26)18(27)15-6-4-8-17(24-15)25-19(28)14-5-2-3-7-16(14)29-20(21,22)23;/h2-8,13H,9-12H2,1H3,(H,24,25,28);1H
